* source JEDL_PROJECT_1
V_V2         N00125 N00357  
+SIN 0 12.6 120Hz 0 0 0
D_D1         0 N00125 Dbreak 
D_D2         0 N00357 Dbreak 
D_D3         N00125 N00207 Dbreak 
D_D4         N00357 N00207 Dbreak 
C_C1         N00207 0  1000u  TC=0,0 
